Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9][H:10],3.99492301346
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.85704619775
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8],3.95787143042
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],2.00394763986
[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-0.292843235699
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.88494745303
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])[H:16],2.86075436104
[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-2.03965447819
[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.52081163596
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]12[O:8][C:9]1[C:10]2[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]#[C:10][H:11],1.0391943307
[H:1]/[C:2](=[C:3](/[H:4])[C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.49943549825
[H:10].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.582227957390001
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.69756138956
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-5.35180309238
[H:1].[O:2]=[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.3113546593
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-0.8892899709559999
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.71372858574
[H:1][C:2][O:3][C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]#[C:5],6.4844107845000005
[H:1][O:2][O:3]/[C:4](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.69481799663
[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13],-4.39524845851
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])[H:12],4.4617138156900005
[H:1][C:2]#[C:3][C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2],8.12653378692
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-7.679458834239999
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:6][C:7]([H:8])[H:9].[O:4][H:5],3.48257402307
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],3.79887604112
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.943046028
[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.90080714639
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]#[C:7][H:8],7.144447352389999
